US07078523B2
A solution of the compound of Example 45, 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.50 mmol) in 30 mL of pyridine was chilled in an ice water bath. With vigorous stirring, the solution was treated with cyclohexyl isocyanate (0.45 mL, 3.50 mmol). After 18 h, the reaction was concentrated to yield an off white solid. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave 716 mg of N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}-N′-cyclohexylurea as a white solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.50 mmol, 1.00 g | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5O
reactant | cyclohexyl isocyanate | 3.50 mmol, 0.45 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}-N′-cyclohexylurea | 716 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(=O)NC2CCCCC2)C | C22H30N6O2
